US05334225
To 20 ml of ethanol, there were added under ice-cooling 4.83 g of sodium methoxide and 18.0 g of ethyl formate. Further, 10.0 g (81.3 mmol) of 6-amino-m-cresol was added thereto under ice-cooling. After putting back to room temperature, the solution was stirred under a nitrogen atmosphere for 1 hour. After the completion of the reaction, the reaction mixture was poured into 200 ml of water. The obtained solution was neutralized with glacial acetic acid, extracted with 300 ml of ethyl acetate, washed with 200 ml of 1N hydrochloric acid and 100 ml of a saturated aqueous solution of sodium hydrogencarbonate and dried over anhydrous Glauber's salt. After distilling off the solvent under reduced pressure, 3.98 g (26.4 mmol) of N-(2-hydroxy-4-methylphenyl)formamide was obtained as a pale brown solid. The yield was 32%.

reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sodium methoxide | 4.83 g | C[O-].[Na+]
reactant | ethyl formate | 18.0 g | C(=O)OCC | C3H6O2
reactant | 6-amino-m-cresol | 81.3 mmol, 10.0 g | NC=1C=CC(=CC1O)C | C7H9NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 200 ml | O | H2O
product | N-(2-hydroxy-4-methylphenyl)formamide | 26.4 mmol, 3.98 g, yield was 32% | OC1=C(C=CC(=C1)C)NC=O | C8H9NO2
